US07947706B2
49.7 mg of solid beige-coloured 3-{4-[3-(4-fluorophenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide are prepared as described in Example 7 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide and 4-fluorophenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N | C14H12N4O
reactant | 4-fluorophenyl isocyanate | FC1=CC=C(C=C1)N=C=O | C7H4FNO
product | 3-{4-[3-(4-fluorophenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | FC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N)=O | C21H16FN5O2
